US08236808B2
Step 1: [4-(3-Hydroxy-propyl)-phenoxy]-acetic acid methyl ester
To a solution of 3-(4-hydroxyphenyl)-1-propanol (3 g, 19.7 mmol) in acetone (30 mL) is added potassium carbonate (4.08 g, 29.5 mmol) and methyl bromoacetate (2.8 mL, 29.3 mmol) and the reaction is heated at reflux for 15 h. The reaction mixture is allowed to cool to RT, filtered, and the solvent removed in vacuo. The residue is purified by chromatography (SiO2, EtOAc:iso-hexane, 2:3) to afford the title compound. 1H NMR (400 MHz, CDCl3) δ 7.14 (2H, d), 6.85 (2H, d), 4.64 (2H, s), 3.82 (3H, s), 3.69 (2H, t), 2.68 (2H, t), 1.82 (2H, m).

reactant | 3-(4-hydroxyphenyl)-1-propanol | 19.7 mmol, 3 g | OC1=CC=C(C=C1)CCCO | C9H12O2
reactant | potassium carbonate | 29.5 mmol, 4.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 29.3 mmol, 2.8 mL | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | [4-(3-Hydroxy-propyl)-phenoxy]-acetic acid methyl ester | COC(COC1=CC=C(C=C1)CCCO)=O | C12H16O4
